US06953678B1
Candida cylindracea lipase (50 g) was added to a solution of racemic 2-methylvaleric acid (86.2 mmol, 10 g) in hexane (500 ml) containing tributyl orthoformate (86.2 mmol, 23 ml) and 0.1 ml of n-butanol. The mixture was incubated at 45° C. under shaking (300 rpm). Conversion and ee of the butyl ester were followed by GC using a β-cyclodextrin (dimethylpenthylbetacdx/OV1701 3:7) column. After 48 h conversion had reached 65% and reaction was stopped filtering off the enzyme. After partition with aq. NaHCO3 (3 g in 200 ml of water) the hexane phase was dried over Na2SO4 and evaporated under vacuum to furnish 9.6 g of (S)-2-methylvaleric butyl ester (yield 65%, ee 53%). MS data agreed with those reported in the literature (Kim Ha, J.; Lindsay, R. C.; J. Food Compos. Anal. 1989, 2, 118–131). Anal. Calcd for C10H20O2; C, 69.72; H, 11.70. Found: C. 69.98; H, 11.84.

reactant | racemic 2-methylvaleric acid | 86.2 mmol, 10 g | CC(C(=O)O)CCC | C6H12O2
reactant | tributyl orthoformate | 86.2 mmol, 23 ml | C(OCCCC)(OCCCC)OCCCC | C13H28O3
reactant | n-butanol | 0.1 ml | C(CCC)O | C4H10O
reactant | β-cyclodextrin | C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@H](O2)[C@@H]([C@H]8O)O)CO)CO)CO)CO)CO)CO)O)O)O | C42H70O35
solvent | hexane | 500 ml | CCCCCC | C6H14
product | (S)-2-methylvaleric butyl ester | 9.6 g, yield 65% | C(CCC)OC([C@H](CCC)C)=O | C10H20O2
